* AMCAS TakeHomeLab - 6T read, bitline discharge and margin 
.include 45nm_bulk.txt        
$ PTM BSIM4 card 
.param VDD=1.1 VBL=1.1 
Vdd  vdd 0 'VDD' 
Vwl  wl  0 PWL(0 0 1n 0 1.05n 'VDD') 
MP1  qb q  vdd vdd pmos W=0.15u L=0.045u 
MN1  qb q  0   0   nmos W=0.20u L=0.045u 
MP2  q  qb vdd vdd pmos W=0.15u L=0.045u 
MN2  q  qb 0   0   nmos W=0.20u L=0.045u 
MA1  bl  wl q  0   nmos W=0.16u L=0.045u 
MA2  blb wl qb 0   nmos W=0.16u L=0.045u 
Cbl  bl  0 180f IC='VBL' 
Cblb blb 0 180f IC='VBL' 
.ic v(q)=0 v(qb)='VDD' 
.temp 85
.control 

tran 5p 4n uic  
meas tran qmax MAX  v(q) FROM=1n TO=4n 
wrdata read.csv v(bl) v(blb) v(q) v(qb) 
meas tran bl_2ns FIND v(bl) AT=2n
meas tran blb_2ns FIND v(blb) AT=2n

let dv_wave = v(blb)-v(bl)

meas tran dv FIND dv_wave AT=2n

plot v(bl) v(blb)
plot dv_wave
.endc 
.end